US04292040
Sulfanilamide/Hydrochloric Acid/Brij 35 Reagent Mixture
To a 2 liter volumetric flask containing approximately 1500 ml. of distilled water is added 20.0 g. of sulfanilamide (0.116 mol), 66 ml. of Brij 35 and 200 ml. of concentrated hydrochloric acid. The resulting mixture is taken up to 2 liters with distilled water and then stirred until the sulfanilamide is completely dissolved.

reactant | sulfanilamide | 0.116 mol | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | Brij 35 | CCCCCCCCCCCCOCCO | C14H30O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | Sulfanilamide Hydrochloric Acid Brij 35 | S(=O)(C1=CC=C(C=C1)N)(=O)N.Cl.CCCCCCCCCCCCOCCO | InChI=1S/C14H30O2.C6H8N2O2S.ClH/c1-2-3-4-5-6-7-8-9-10-11-13-16-14-12-15;7-5-1-3-6(4-2-5)11(8,9)10;/h15H,2-14H2,1H3;1-4H,7H2,(H2,8,9,10);1H
